* EPC2361 PWM half bridge: 6 devices per position
* Standalone LTspice netlist. Open this .cir file and click Run.
* Demonstration load only: not the rated motor or validated efficiency model.
.include EPC2361.lib
.param Vbus=75 Fsw=20k Ffund=1k ModIndex=0.8 Tstop=40u
.param Lphase=20u Rphase=0.1 BemfPeak=20 BemfPhase=0
.param Vgate=5 Deadtime=20n Edge=3n Ron=3 Roff=1 RdrvOn=0.5 RdrvOff=0.5
.param Ldrain=0.25n Lsource=0.25n Lgate=1n
.temp 125
Vdc bus 0 {Vbus}
Lfeed bus dc 2n Rser=2m
* Local MLCC equivalent: replace C/ESR/ESL with selected components under bias.
Lcap dc cx 0.2n
Rcap cx cy 2m
Cdc cy 0 20u IC={Vbus}
Vmid mid 0 {Vbus/2}
Bemf emf mid V=BemfPeak*sin(2*pi*Ffund*time+BemfPhase*pi/180)
Rload load emf {Rphase}
Lload sw load {Lphase} IC=0
* SPWM duty and triangular carrier; .tran analysis, not small-signal AC.
Bduty duty 0 V=0.5+0.5*ModIndex*sin(2*pi*Ffund*time)
Btri carrier 0 V=abs(2*(time*Fsw-floor(time*Fsw))-1)
* Smoothed nonoverlap commands; finite slew. Deadtime is approximate with smoothing.
Bhi cmdh sw V=Vgate/2*(1+tanh((V(duty)-V(carrier)-Deadtime*Fsw)/(2*Fsw*Edge)))
Blo cmdl 0 V=Vgate/2*(1+tanh((V(carrier)-V(duty)-Deadtime*Fsw)/(2*Fsw*Edge)))
* One shared output impedance per bank, no driver current-limit or propagation model.
Bdh cmdh gh I=V(cmdh,gh)/if(V(cmdh,sw)>2.5,RdrvOn,RdrvOff)
Bdl cmdl gl I=V(cmdl,gl)/if(V(cmdl)>2.5,RdrvOn,RdrvOff)
LdH1 dc dH1 {Ldrain} Rser=0.1m
LsH1 sH1 sw {Lsource} Rser=0.1m
BrH1 gh grH1 I=V(gh,grH1)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH1 grH1 gH1 {Lgate} Rser=0.01
XH1 gH1 dH1 sH1 EPC2361
LdL1 sw dL1 {Ldrain} Rser=0.1m
LsL1 sL1 0 {Lsource} Rser=0.1m
BrL1 gl grL1 I=V(gl,grL1)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL1 grL1 gL1 {Lgate} Rser=0.01
XL1 gL1 dL1 sL1 EPC2361
LdH2 dc dH2 {Ldrain} Rser=0.1m
LsH2 sH2 sw {Lsource} Rser=0.1m
BrH2 gh grH2 I=V(gh,grH2)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH2 grH2 gH2 {Lgate} Rser=0.01
XH2 gH2 dH2 sH2 EPC2361
LdL2 sw dL2 {Ldrain} Rser=0.1m
LsL2 sL2 0 {Lsource} Rser=0.1m
BrL2 gl grL2 I=V(gl,grL2)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL2 grL2 gL2 {Lgate} Rser=0.01
XL2 gL2 dL2 sL2 EPC2361
LdH3 dc dH3 {Ldrain} Rser=0.1m
LsH3 sH3 sw {Lsource} Rser=0.1m
BrH3 gh grH3 I=V(gh,grH3)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH3 grH3 gH3 {Lgate} Rser=0.01
XH3 gH3 dH3 sH3 EPC2361
LdL3 sw dL3 {Ldrain} Rser=0.1m
LsL3 sL3 0 {Lsource} Rser=0.1m
BrL3 gl grL3 I=V(gl,grL3)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL3 grL3 gL3 {Lgate} Rser=0.01
XL3 gL3 dL3 sL3 EPC2361
LdH4 dc dH4 {Ldrain} Rser=0.1m
LsH4 sH4 sw {Lsource} Rser=0.1m
BrH4 gh grH4 I=V(gh,grH4)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH4 grH4 gH4 {Lgate} Rser=0.01
XH4 gH4 dH4 sH4 EPC2361
LdL4 sw dL4 {Ldrain} Rser=0.1m
LsL4 sL4 0 {Lsource} Rser=0.1m
BrL4 gl grL4 I=V(gl,grL4)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL4 grL4 gL4 {Lgate} Rser=0.01
XL4 gL4 dL4 sL4 EPC2361
LdH5 dc dH5 {Ldrain} Rser=0.1m
LsH5 sH5 sw {Lsource} Rser=0.1m
BrH5 gh grH5 I=V(gh,grH5)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH5 grH5 gH5 {Lgate} Rser=0.01
XH5 gH5 dH5 sH5 EPC2361
LdL5 sw dL5 {Ldrain} Rser=0.1m
LsL5 sL5 0 {Lsource} Rser=0.1m
BrL5 gl grL5 I=V(gl,grL5)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL5 grL5 gL5 {Lgate} Rser=0.01
XL5 gL5 dL5 sL5 EPC2361
LdH6 dc dH6 {Ldrain} Rser=0.1m
LsH6 sH6 sw {Lsource} Rser=0.1m
BrH6 gh grH6 I=V(gh,grH6)/if(V(cmdh,sw)>2.5,Ron,Roff)
LgH6 grH6 gH6 {Lgate} Rser=0.01
XH6 gH6 dH6 sH6 EPC2361
LdL6 sw dL6 {Ldrain} Rser=0.1m
LsL6 sL6 0 {Lsource} Rser=0.1m
BrL6 gl grL6 I=V(gl,grL6)/if(V(cmdl,0)>2.5,Ron,Roff)
LgL6 grL6 gL6 {Lgate} Rser=0.01
XL6 gL6 dL6 sL6 EPC2361
RrefH gh sw 1G
RrefL gl 0 1G
.options plotwinsize=0 reltol=0.003
.tran 0 {Tstop} 0 20n uic
.save V(sw) V(duty) V(carrier) V(gh,sw) V(gl) V(gH1,sH1) V(gL1,sL1) I(Lload) I(LdH1) I(LdL1) V(dc)
.meas tran VswMax MAX V(sw)
.meas tran VswMin MIN V(sw)
.meas tran IloadMax MAX I(Lload)
* No switching-energy measurement here: terminal energy includes reactive storage.
.end
