LMG1210 adapted TI model LTspice compatibility smoke test
.include models/ti-lmg1210/LMG1210_LTspice.lib
V12 VIN 0 12
VHB HB 0 5
VHI HI 0 PULSE(0 3.3 10u 2n 2n 4u 10u)
VLI LI 0 PULSE(0 3.3 15u 2n 2n 4u 10u)
XDRV HB HO LI 0 0 0 0 0 0 VIN LO VDD VDD VDD 0 0 HI NC0 NC1 NC2 BST LMG1210
CVDD VDD 0 1u
CHO HO 0 1n
CLO LO 0 1n
RBST BST 0 1Meg
.tran 0 30u 0 2n
.meas tran HO_MAX MAX V(HO) FROM 10u TO 30u
.meas tran LO_MAX MAX V(LO) FROM 10u TO 30u
.end
