* C:\Github\KTH\PCB-Design\simulation\LMG1210-EPC2361\Parasitics_Check.asc
VIN VIN 0 PWL(0 0 1u 0 2u 12)
CVDD VDD 0 1µ
VHI HI 0 PULSE(0 3.3 {TS+T/2} 2n 2n {T/2-202n} {T})
VLI LI 0 PULSE(0 3.3 {TS} 2n 2n {T/2-202n} {T})
XU1 VIN VDD HI LI 0 HB SW HO LO BST VDD VDD LMG1210_TEST
DBOOT BST HB DBOOT
CBOOT HB SW 100n
XQH GH DH SW EPC2361
XQL GL SW 0 EPC2361
VBUS SUPPLY PGND 75
RBUS SUPPLY BUS 10m
CDC BUS CAPRET 10µ
LLOAD SW OUT 100µ
RLOAD OUT 0 2
RGHON HO ONH {RGON}
DGHON ONH KGH DGATE
RGHOFF KGH OFFH {RGOFF}
DGHOFF OFFH HO DGATE
LGH KGH GH {LGATE}
RGSH GH SW 100k
RGLON LO ONL {RGON}
DGLON ONL KGL DGATE
RGLOFF KGL OFFL {RGOFF}
DGLOFF OFFL LO DGATE
LGL KGL GL {LGATE}
RGSL GL 0 100k
LPPLUS BUS DH {LPOWER/2}
LPMINUS 0 PGND {LPOWER/2}
LCESL CAPRET PGND {LCAP}
.model D D
.lib C:\Users\enesa\AppData\Local\LTspice\lib\cmp\standard.dio
.include LMG1210_modes.lib
.include EPC2361.lib
.param TS=300u FSW=50k T=1/FSW
.model DBOOT D(Is=1n N=1.2 Rs=1 Cjo=2p Tt=1n Bv=150 Ibv=10u)
.tran 0 400u 0 5n
* H GATE: ON output->gate / OFF gate->output
* L GATE: ON output->gate / OFF gate->output
.param RGON=2 RGOFF=0.5 LGATE=2n LPOWER=4n LCAP=0.5n
.model DGATE D(Is=1u N=1.05 Rs=0.05 Cjo=5p Tt=0 Bv=30)
.options plotwinsize=0 method=gear
.meas tran VGH_PK MAX V(GH,SW) FROM=330u TO=400u
.meas tran VGH_MIN MIN V(GH,SW) FROM=330u TO=400u
.meas tran VGL_PK MAX V(GL) FROM=330u TO=400u
.meas tran VGL_MIN MIN V(GL) FROM=330u TO=400u
.meas tran VDSH_PK MAX V(DH,SW) FROM=330u TO=400u
.meas tran VDSL_PK MAX V(SW) FROM=330u TO=400u
.meas tran VBOOT_MIN MIN V(HB,SW) FROM=330u TO=400u
* LMG1210 + EPC2361: gate/power parasitics and separate ON/OFF paths
* User HalfBridge.asc preserved: 100 uH load, 2 ohm, 50 kHz, 1 ms run.
* Illustrative inductances only. LGATE per gate loop; LPOWER total interconnect; LCAP additional capacitor ESL.
* Ideal Kelvin source returns; common-source inductance and magnetic coupling are not modeled.
* Power commutation inductance = LPOWER + LCAP = 4.5 nH default.
* Optional: enable ONE sweep directive at a time below.
* .step param LGATE list 1n 2n 5n
* .step param LPOWER list 1n 4n 8n
* .step param RGOFF list 0.5 1 2
.backanno
.end
