* C:\Github\KTH\PCB-Design\simulation\LMG1210-modes\LMG1210_PWM_test.asc
V12 VIN 0 PWL(0 0 1u 0 2u 12)
CVDD VDD 0 1µ
VHB HB HS 5
VHS HS 0 75
CHO HO HS 1n
CLO LO 0 1n
VEN EN 0 PWL(0 0 290u 0 291u 3.3)
VPWM PWM 0 PULSE(0 3.3 {TS} 2n 2n {T/2-2n} {T})
RDHL DHL 0 100k
RDLH DLH 0 100k
XU1 VIN VDD EN PWM 0 HB HS HO LO BST DHL DLH LMG1210_TEST
* LMG1210 PWM MODE - driver-only test
* PWM high requests HO; PWM low requests LO. EN low disables both. 100k dead-time resistors target about 7.2 ns.
* Ideal HB-HS = 5 V; HS = 75 V DC. Bootstrap recharge and dv/dt immunity are not tested.
.include LMG1210_modes.lib
.param TS=300u FSW=100k T=1/FSW DT=200n
.step param FSW list 50k 100k
.tran 0 360u 0 5n
.options plotwinsize=0 method=gear
.save V(VIN) V(VDD) V(HO) V(HS) V(LO) V(EN) V(PWM)
.meas tran VDD_FINAL FIND V(VDD) AT=350u
.meas tran HO_HIGH FIND V(HO,HS) AT=302u
.meas tran LO_HIGH FIND V(LO) AT=317u
.meas tran HO_LOW FIND V(HO,HS) AT=317u
.meas tran LO_LOW FIND V(LO) AT=302u
.backanno
.end
